US06747050B1
Synthesis of Ethyl 2-Phenoxymethylacrylate
A solution of ethyl 2-bromomethylacrylate (2.00 g, 10.4 mmol, ref: Villieras, J. and Rambaud, M. Synthesis, 1982, 914) and phenol(975 mg, 1.0 eq) in dry THF (20 mL) under N2 at 0° C. was treated with anhydrous K2CO3 (1.43 g, 1.0 mol eq). No reaction was observed for 1 h. Anhydrous DMF (20 mL) was added and stirred for 2 h at 0° C. and for 1 h at room temperature. After evaporation of DMF, water(100 mL) was added, and the reaction was extracted with ethyl acetate (100 mL×2). The organic extract was washed with brine (100 mL), dried (anh. Na2SO4), filtered and concentrated. Flash chromatography (40% CH2Cl2/hexanes) gave 1.712 g (80%) of the title compound.

reactant | ethyl 2-bromomethylacrylate | 10.4 mmol, 2.00 g | BrCC(C(=O)OCC)=C | C6H9BrO2
reactant | phenol | 975 mg, 1.0 eq | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 1.0 mol, 1.43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl 2-Phenoxymethylacrylate | 1.712 g, 80% | O(C1=CC=CC=C1)CC(C(=O)OCC)=C | C12H14O3
